US07572820B2
A stirred solution of 1,1-dimethylethyl (2Z)-3-amino-2-butenoate (47.6 g, 0.3 mol) in EtOH (100 mL) was treated dropwise at ambient temperature with a 1.2 M solution of 2-(trifluoromethyl)-2,5-cyclohexadiene-1,4-dione in CH2Cl2 (300 mL, 0.35 mol) (internal temperature rose to +35° C. during the addition). The reaction was stirred 1 h and concentrated at reduced pressure. Stirring the resulting material with CHCl3 at ice-bath temperature afforded 1,1-dimethylethyl 5-hydroxy-2-methyl-4-(trifluoromethyl)-1H-indole-3-carboxylate as an off-white solid which was collected by filtration (62 g, 66% yield): 1H NMR (DMSO-d6) δ 11.55 (s, 1H), 9.68 (bs, 1H), 7.33 (d, J=8.8 Hz, 1H), 6.76 (d, J=8.8 Hz, 1H), 2.37 (s, 3H), 1.45 (s, 9H).

reactant | 1,1-dimethylethyl (2Z)-3-amino-2-butenoate | 0.3 mol, 47.6 g | N\C(=C/C(=O)OC(C)(C)C)\C | C8H15NO2
reactant | 2-(trifluoromethyl)-2,5-cyclohexadiene-1,4-dione | FC(C=1C(C=CC(C1)=O)=O)(F)F | C7H3F3O2
reactant | CH2Cl2 | 0.35 mol, 300 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 100 mL | CCO | C2H6O
product | 1,1-dimethylethyl 5-hydroxy-2-methyl-4-(trifluoromethyl)-1H-indole-3-carboxylate | 66% yield | OC=1C(=C2C(=C(NC2=CC1)C)C(=O)OC(C)(C)C)C(F)(F)F | C15H16F3NO3
